US05583127
(EZ)-17β-[2-(2-Aminoethoxyimino)ethyl]-5β-androstane-3β,14β-diol (I-bf)
To a solution of 0.47 g of 2-aminoethoxyamine hydrochloride in 16 ml of 1N NaOH and 20 ml of dioxane a solution of 0.89 g of 3β,14β-dihydroxy-5β-androstane-17β-ylacetaldehyde (Prepn. 2) in 15 ml of dioxane was added at room temperature. After 20 hrs the solution was extracted with ethyl acetate; the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. The crude product was purified by flash chromatography (SiO2) using chloroform with increasing amounts of methanol (6 to 20%) as the eluant. The fractions containing the title compound were collected and evaporated to dryness. The residue was ground with di-iso-propyl ether to give 0.55 g of the title compound (I-bf), as a white foam.

reactant | 2-aminoethoxyamine hydrochloride | 0.47 g | Cl.NCCON
reactant | 3β,14β-dihydroxy-5β-androstane-17β-ylacetaldehyde | 0.89 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CC=O)O | C21H34O3
solvent | NaOH | 1N, 16 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (EZ)-17β-[2-(2-Aminoethoxyimino)ethyl]-5β-androstane-3β,14β-diol | 0.55 g | NCCON=CC[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C23H40N2O3
